US04921950
A mixture of 3'-azido-3'-deoxy-5'-O-(methoxycarbonyl)thymidine (2.50 g, 7.68 mmoles) from Example A14 and sodium bicarbonate (0.50 g) was heated 2.5 h at reflux in methanol (75 mL). The solvent was removed by rotary evaporation and the residual semi-solid was triturated with cold 5% aq. sodium bicarbonate (50 mL). The resulting solid was collected by filtration and dried in a vacuum oven at 55° C. for 17 h affording 1.71 g (83.4%) of 3'-azido-3'-deoxythymidine: mp 119°-121° C.; 1H NMR (DMSO-d6) δ1.79 (d, J=1.04 Hz, 3H C-5 CH3), 2.10-2.56 (m, 2H, C-2'H), 3.31-3.92 (m, 3H, C-3' and C-5'H), 4.40 (m, 1H, C-4'H), 5.19 (t, J=5.22 Hz, 1H, OH), 6.11 (t, J=6.46 Hz, 1H, C-1'H), 7.68 (q, J=1.04, 1H, C-6H) and 10.65 (broad, 1H, NH); TLC Rf =0.35, silica gel, CHCl3 :CH3OH/90:10.

reactant | 3'-azido-3'-deoxy-5'-O-(methoxycarbonyl)thymidine | 7.68 mmoles, 2.50 g | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1COC(=O)OC)N1C(=O)NC(=O)C(C)=C1 | C12H15N5O6
reactant | sodium bicarbonate | 0.50 g | C([O-])(O)=O.[Na+]
solvent | methanol | 75 mL | CO | CH4O
product | 3'-azido-3'-deoxythymidine | 1.71 g, 83.4% | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1 | C10H13N5O4
